US08541595B2
Step 1, Example VIII-1: 5-(4-chlorophenyl)-5-(3-{4-[1-(3,3-difluoropyrrolidin-1-yl)ethyl]piperidin-1-yl}-3-oxopropyl)-5H-imidazo[2,1-a]isoindole
To a mixture of 1-(1-{3-[5-(4-chlorophenyl)-5H-imidazo[2,1-a]isoindol-5-yl]propanoyl}piperidin-4-yl)ethanone (27 mg), 3,3-difluoropyrrolidinium chloride (17 mg) and NaOAc (15 mg) in CH2Cl2 was added AcOH (0.01 mL). After stirring the resulting mixture for 30 minutes NaBH(OAc)3 (26 mg) was added and allowed to stir overnight. The reaction mixture was then partitioned between saturated aqueous NaHCO3 and CH2Cl2. Aqueous layer was extracted with CH2Cl2 (2×). Combined organic layers were dried over Na2SO4 and concentrated. Purification by reversed phase HPLC (21×100 mm Phenomenex Gemini, 15-95% MeCN/water containing 0.05% NH4OH over 20 min at 20 mL/min) afforded title compound as a white solid. HRMS. Found, 539.2387; calcd for (M+H)+, 539.2384. 1H NMR (500 MHz, CDCl3): δ 7.86 (d, J=7.62 Hz, 1 H); 7.43-7.38 (m, 1 H); 7.35-7.26 (m, 4 H); 7.25-7.19 (m, 1 H); 7.11 (d, J=8.36 Hz, 2 H); 6.96 (d, J=9.03 Hz, 1 H); 4.54 (d, J=13.34 Hz, 1 H); 3.31 (d, J=13.41 Hz, 1 H); 3.11-3.03 (m, 1 H); 2.91-2.80 (m, 3 H); 2.76-2.61 (m, 3 H); 2.38-2.13 (m, 4 H); 1.69-1.50 (m, 6 H); 0.90-0.83 (m, 4 H).

reactant | 1-(1-{3-[5-(4-chlorophenyl)-5H-imidazo[2,1-a]isoindol-5-yl]propanoyl}piperidin-4-yl)ethanone | 27 mg | ClC1=CC=C(C=C1)C1(N2C(C3=CC=CC=C13)=NC=C2)CCC(=O)N2CCC(CC2)C(C)=O | C26H26ClN3O2
reactant | 3,3-difluoropyrrolidinium chloride | 17 mg | [Cl-].FC1(C[NH2+]CC1)F
reactant | NaOAc | 15 mg | CC(=O)[O-].[Na+]
reactant | NaBH(OAc)3 | 26 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | AcOH | 0.01 mL | CC(=O)O | C2H4O2
product | 5-(4-chlorophenyl)-5-(3-{4-[1-(3,3-difluoropyrrolidin-1-yl)ethyl]piperidin-1-yl}-3-oxopropyl)-5H-imidazo[2,1-a]isoindole | ClC1=CC=C(C=C1)C1(N2C(C3=CC=CC=C13)=NC=C2)CCC(=O)N2CCC(CC2)C(C)N2CC(CC2)(F)F | C30H33ClF2N4O
